US06441017B1
Step K: (R)-2-Fluoro-4-(5-{[1-(7-hydroxynaphthalen-1-yl)pyrrolidin-3-ylamino]methyl}imidazol-1-ylmethyl)benzonitrile
(R)-3-Amino-1-[7-hydroxynaphthalen-1-yl]pyrrolidine hydrochloride, as described in Step J, (85 mg, 0.32 mmol) and 1-(4-cyano-3-fluorobenzyl)-5-imidazolecarboxaldehyde, as described in Example 1, Step G, (75 mg, 0.33 mmol), were stirred in MeOH (1 mL) and N,N-diisopropylethylamine was added dropwise to adjust the mixture to ca. pH 5, as judged by wetted pH paper. The mixture was stirred for 1 hour at ambient temperature then NaCNBH3 (26 mg, 0.42 mmol) was added and stirring was continued for 18 hours. The reaction was quenched with saturated aqueous NaHCO3 (1 mL) and most of the MeOH was removed under reduced pressure. The residual solution was partitioned between saturated aqueous NaHCO3 (3 mL) and CH2Cl2 (10 mL). The aqueous layer was extracted further with CH2Cl2 (2×10 mL). The combined organic extracts were dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by flash column chromatography on silica, eluting with a gradient of CH2Cl2—1% to 6% MeOH—0.1% to 0.6% NH4OH to yield the titled product as a colorless oil.

reactant | (R)-3-Amino-1-[7-hydroxynaphthalen-1-yl]pyrrolidine hydrochloride | Cl.N[C@H]1CN(CC1)C1=CC=CC2=CC=C(C=C12)O
reactant | 1-(4-cyano-3-fluorobenzyl)-5-imidazolecarboxaldehyde | C(#N)C1=C(C=C(CN2C=NC=C2C=O)C=C1)F | C12H8FN3O
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
reactant | NaCNBH3 | 0.42 mmol, 26 mg | [BH3-]C#N.[Na+]
solvent | MeOH | 1 mL | CO | CH4O
product | (R)-2-Fluoro-4-(5-{[1-(7-hydroxynaphthalen-1-yl)pyrrolidin-3-ylamino]methyl}imidazol-1-ylmethyl)benzonitrile | FC1=C(C#N)C=CC(=C1)CN1C=NC=C1CN[C@H]1CN(CC1)C1=CC=CC2=CC=C(C=C12)O | C26H24FN5O
